US04725599
trans-3-[3-(3-Hydroxy-2-piperidyl)-2-oxopropyl]benzofuro[3,2-d]pyrimidin-4(3H)-one Dihydrobromide
A solution of 0.600 g (0.00145 mole) of methyl trans-2-[3-(3,4-dihydro-4-oxobenzofuro[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate and 30 ml of 48% hydrobromic acid in a 100 ml round bottom flask was immersed in a bath preheated to 150° C. and held there for 12 minutes. Upon cooling to room temperature, the solution was evaporated under reduced pressure to afford a residue. The residue was heated with ethanol briefly; the mixture was allowed to cool, and the ethanol removed by pipette to furnish the title compound: m.p. 257°-258° C.; yield 0.28 g (41%); 1H-nmr (DMSO-d6) delta 1.4-2.0 ppm (multiplet, 4H, CH3OCHCH2CH2CH2N), 2.8-3.0 (multiplet, 2H, NCH2), 3.1-3.5 (multiplet, includes H2O, CHOH, COCH2CH, and CH2CHNCO), 5.2 (singlet, 2H, NCH2CO), 7.5 (triplet, 1H, aromatic H), 7.7 (triplet, 1H, aromatic H), 7.9 (doublet, 1H, aromatic H), 8.1 (doublet, 1H, aromatic H), 8.4 (singlet, 1H, N=CH--N), 8.7 (broad singlet, 1H, OH).

reactant | methyl trans-2-[3-(3,4-dihydro-4-oxobenzofuro[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate | 0.00145 mole, 0.600 g | O=C1C2=C(N=CN1CC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OC)=O)C1=C(O2)C=CC=C1 | C21H23N3O6
reactant | hydrobromic acid | 30 ml | Br | BrH
solvent | ethanol | C(C)O | C2H6O
product | trans-3-[3-(3-Hydroxy-2-piperidyl)-2-oxopropyl]benzofuro[3,2-d]pyrimidin-4(3H)-one Dihydrobromide | Br.Br.O[C@H]1[C@@H](NCCC1)CC(CN1C=NC2=C(C1=O)OC1=C2C=CC=C1)=O | InChI=1S/C18H19N3O4.2BrH/c22-11(8-13-14(23)5-3-7-19-13)9-21-10-20-16-12-4-1-2-6-15(12)25-17(16)18(21)24;;/h1-2,4,6,10,13-14,19,23H,3,5,7-9H2;2*1H/t13-,14+;;/m0../s1
